datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CC(c1ccccn1)[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CC(c1ccccn1)[NH2+:10][H:20] 10=20;20,21=21",
"C[NH:10]Cc1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](Cc1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(c1cnoc1)[O:21][H:20].O=Cc1ccc([O-:10])cc1>>O=C(c1cnoc1)[O-:21].O=Cc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C[NH+:21](CCCN)[H:20].[NH3+]C(Cc1c[nH]c[n:10]1)C(=O)[O-]>>C[NH:21]CCCN.[NH3+]C(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O-:10])c1.Cc1ccccc1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccc2ccccc2c1>>Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O:10][H:20])c1.Cc1ccccc1/C(=N/CCC[N:21](C)C)c1ccc2ccccc2c1 10=20;20,21=21",
"C[NH+](C)CC[NH+:21](CC[NH3+])[H:20].Cc1n[nH]c2cc([NH2:10])ccc12>>C[NH+](C)CC[NH:21]CC[NH3+].Cc1n[nH]c2cc([NH2+:10][H:20])ccc12 10=20;20,21=21",
"O=[Se](c1ccccc1-c1ccccc1)[O-:10].[NH3+]CCCCCC#CC#CCCC(=O)[O:21][H:20]>>O=[Se](c1ccccc1-c1ccccc1)[O:10][H:20].[NH3+]CCCCCC#CC#CCCC(=O)[O-:21] 10=20;20,21=21",
"CO/C([O-])=N/c1ncnc2nc[n-:10]c12.Cc1c[n+:21]([H:20])oc1C>>CO/C([O-])=N/c1ncnc2nc[n:10]([H:20])c12.Cc1c[n:21]oc1C 10=20;20,21=21",
"CCCCCC[N+:21](CCO)(CC(O)CC)[H:20].c1ccc(C(OCC[N:10]2CCCCC2)c2ccccc2)cc1>>CCCCCC[N:21](CCO)CC(O)CC.c1ccc(C(OCC[N+:10]2([H:20])CCCCC2)c2ccccc2)cc1 10=20;20,21=21",
"CC(C[NH3+])C(=O)[O-:10].COc1ccc(-c2oc(-c3ccc(C)cc3)c[n+:21]2[H:20])cc1>>CC(C[NH3+])C(=O)[O:10][H:20].COc1ccc(-c2oc(-c3ccc(C)cc3)c[n:21]2)cc1 10=20;20,21=21",
"C[NH+](C)c1ccc([NH2+:21][H:20])cc1.Cc1ccccc1SCC(=O)[O-:10]>>C[NH+](C)c1ccc([NH2:21])cc1.Cc1ccccc1SCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC1(C)[C@@H](N)[C@@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC1(C)[C@@H](N)[C@@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"N#CC(CC[N+:21]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.c1ccc2c(c1)cn[n-:10]2>>N#CC(CC[N:21]1CCCCC1)(c1ccccc1)c1ccccc1.c1ccc2c(c1)cn[n:10]2[H:20] 10=20;20,21=21",
"CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n+:21]2[H:20])c1ccccc1F.O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O-:10]>>CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n:21]2)c1ccccc1F.O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCCSCC(=O)[O:21][H:20].O=S1(=O)Cc2cc(Br)ccc2N=C[N-:10]1>>CCCSCC(=O)[O-:21].O=S1(=O)Cc2cc(Br)ccc2N=C[N:10]1[H:20] 10=20;20,21=21",
"CCCn1cc[n:10]c1CO.O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O:21][H:20])O1>>CCCn1cc[n+:10]([H:20])c1CO.O=C1C[C@@H](C(=O)O)[C@@H](C(=O)[O-:21])O1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[N+](C)(C)CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[N+](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"C[n+]1cccc(C(=O)[O:21][H:20])c1.NC(=O)CCCCCCCCC(=O)N[O-:10]>>C[n+]1cccc(C(=O)[O-:21])c1.NC(=O)CCCCCCCCC(=O)N[O:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CC(=O)Nc1c(C)cccc1C.Clc1ccc([O:21][H:20])c2ccccc12>>CCC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].Clc1ccc([O-:21])c2ccccc12 10=20;20,21=21",
"C=CC(C)[NH+:21](c1ccccc1)[H:20].CCC(=NO)[N-:10]O>>C=CC(C)[NH:21]c1ccccc1.CCC(=NO)[N:10](O)[H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)Nc1cc(C)ccc1C)[H:20].OC[O-:10]>>CC[N:21](CC)CC(=O)Nc1cc(C)ccc1C.OC[O:10][H:20] 10=20;20,21=21",
"C[n+]1cccc2ccc([O-:10])cc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[n+]1cccc2ccc([O:10][H:20])cc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cccc([O-:10])c1C(=O)Oc1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc([O:10][H:20])c1C(=O)Oc1ccccc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])cc1F.O=C(c1ccccc1CO)[O-:10]>>Nc1cc[n:21]cc1F.O=C(c1ccccc1CO)[O:10][H:20] 10=20;20,21=21",
"ClCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>ClCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOCC[N:10](C)c1ccccc1.O=C(CCCc1c[nH]c2ccccc12)[O:21][H:20]>>CCOCC[N+:10](C)(c1ccccc1)[H:20].O=C(CCCc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NS(=O)(=O)c1ccccc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NS(=O)(=O)c1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc2c([N+](=O)[O-])ccc([O-:10])c2n1.[O-]N=C1C(=NO)CCC/C1=N\[O:21][H:20]>>Cc1ccc2c([N+](=O)[O-])ccc([O:10][H:20])c2n1.[O-]N=C1C(=NO)CCC/C1=N\[O-:21] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"COC(=O)C1=CCC[NH+:21]([H:20])C1.O=C([O-])c1cc(S(=O)(=O)[NH-:10])c(Cl)cc1NCc1ccco1>>COC(=O)C1=CCC[NH:21]C1.O=C([O-])c1cc(S(=O)(=O)[NH:10][H:20])c(Cl)cc1NCc1ccco1 10=20;20,21=21",
